US08217065B2
A. 2-(2,6-Dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid methyl ester
Slowly add a solution of FeCl3 (1.46 g, 9.02 mmol) in DMSO (10 mL) to a stirring solution of 2,6-dichloro-benzaldehyde (5.27 g, 30.1 mmol) and 3,4-diamino-benzoic acid methyl ester (5.00 g, 30.1 mmol) in DMSO (90 mL). Allow the reaction to stir open to the air for 17 hr. Add additional FeCl3 (0.73 g, 4.51 mmol). Stir for an additional 24 hr. Dilute with EtOAc (600 mL) and extract with water (3×50 mL). Dry the organic phase over Na2SO4 and evaporate the solvent. Triturate the residue with DCM to afford the desired product as a light tan solid: 1H NMR (400 MHz, MeOD) δ ppm 3.96 (s, 3 H) 7.55-7.63 (m, 3 H) 7.71 (d, J=8.21 Hz, 1 H) 8.04 (dd, J=8.53, 1.58 Hz, 1 H) 8.37 (br. s., 1 H); (M+H)+ 320.9.

reactant | 2,6-dichloro-benzaldehyde | 30.1 mmol, 5.27 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | 3,4-diamino-benzoic acid methyl ester | 30.1 mmol, 5.00 g | COC(C1=CC(=C(C=C1)N)N)=O | C8H10N2O2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | DMSO | 90 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 600 mL | CCOC(=O)C | C4H8O2
product | 2-(2,6-Dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC=C2Cl)Cl)C=C1 | C15H10Cl2N2O2
